US07037908B2
2-Cyano-N,N-dimethyl-benzenesulfonamide.
A solution of 2-cyanobenzensulfonylchloride (2.0 g, 10 mmol), dimethyl amine (1.18 g, 10 mmol, 40 wt % in water) and triethylamine (1.5 mL, 10 mmol) were stirred together at room temperature for 30 min. The resulting slurry was diluted with ethyl acetate and filtered. The filter cake was washed with ethyl acetate and the combined filterate was washed with water, dried (Na2SO4) and concentrated to give the title product as orange plates (1.78 g, 85% yield). 1HNMR (300 MHz, CDCl3) δ: 8.02 (1H, dd, J=8.05, 1.46 Hz), 7.87 (1H, dd, J=7.32, 1.47 Hz), 7.79–7.76 (2H, m), 2.86 (6H, s). LCMS calcd for C9H11N2O2S (M+H): 211.05; found: 211.09.

reactant | 2-cyanobenzensulfonylchloride | 10 mmol, 2.0 g | C(#N)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | dimethyl amine | 10 mmol, 1.18 g | CNC | C2H7N
reactant | triethylamine | 10 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Cyano-N,N-dimethyl-benzenesulfonamide | 85% yield | C(#N)C1=C(C=CC=C1)S(=O)(=O)N(C)C | C9H10N2O2S
